US04436664
N-(2-Methoxyethyl)diethanolamine Preparation
The above named compound was prepared by the procedure described in Example 1 for N-allyldiethanolamine, using 0.5 mol of diethanolamine, 0.55 mol of 2-methoxyethyl tosylate and 29.15 g of sodium carbonate. After workup the crude product was fractionally distilled and the fraction boiling from 90°-110° at 0.1 mm was collected. N-(2-Methoxyethyl)diethanolamine, i.e.,

reactant | N-allyldiethanolamine | C(C=C)N(CCO)CCO | C7H15NO2
reactant | diethanolamine | 0.5 mol | N(CCO)CCO | C4H11NO2
reactant | 2-methoxyethyl tosylate | 0.55 mol | S(=O)(=O)(OCCOC)C1=CC=C(C)C=C1 | C10H14O4S
reactant | sodium carbonate | 29.15 g | C([O-])([O-])=O.[Na+].[Na+]
product | N-(2-Methoxyethyl)diethanolamine | COCCN(CCO)CCO | C7H17NO3
